US07635715B2
Step F: Preparation of (f) N-((7,8-difluoro-2-hydroxy-4-oxo-2′,3′,5′,6′-tetrahydro-4H-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine
A mixture of t-butyl N-((7,8-difluoro-2-hydroxy-4-oxo-2′,3′,5′,6′-tetrahydro-4H-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate (0.13 g, 0.3 mmol) in 3 mL TFA was stirred at room temperature for 1 hour. The mixture was diluted with 100 mL water and a white precipitate was formed to form a suspension. The suspension was stirred for 30 minutes at room temperature, filtered, and washed with 20 mL water. The solid was dried under vacuum at 45° C. for 15 hours to give 0.09 g of the title compound as a white solid. MS m/e: (M+H)+ 368.

reactant | t-butyl N-((7,8-difluoro-2-hydroxy-4-oxo-2′,3′,5′,6′-tetrahydro-4H-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | 0.3 mmol, 0.13 g | FC1=CC=C2C(C(=C(C3(CCOCC3)C2=C1F)O)C(=O)NCC(=O)OC(C)(C)C)=O | C21H23F2NO6
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | 100 mL | O | H2O
product | N-((7,8-difluoro-2-hydroxy-4-oxo-2′,3′,5′,6′-tetrahydro-4H-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine | 0.09 g | FC1=CC=C2C(C(=C(C3(CCOCC3)C2=C1F)O)C(=O)NCC(=O)O)=O | C17H15F2NO6
